US05994368
A mixture of ethyl 6-acetoxymethyl-3-methylquinoline-2-carboxylate (420 mg) and potassium carbonate in methanol was stirred for 30 minutes under ice-cooling. After filtration the filtrate was concentrated and partitioned between ethyl acetate and water. The organic layer was washed with water, dried over magnesium sulfate and concentrated to give methyl 6-hydroxymethyl-3-methylquinoline-2-carboxylate (20 mg).

reactant | ethyl 6-acetoxymethyl-3-methylquinoline-2-carboxylate | 420 mg | C(C)(=O)OCC=1C=C2C=C(C(=NC2=CC1)C(=O)OCC)C | C16H17NO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | methyl 6-hydroxymethyl-3-methylquinoline-2-carboxylate | 20 mg | OCC=1C=C2C=C(C(=NC2=CC1)C(=O)OC)C | C13H13NO3
